US06051712
In an analogous manner to that described in Example 1 (g), by alkylating tert-butyl (3SR,4RS,5RS)-4-[4-(2-benzyloxy-ethoxymethyl)-phenyl]-3-hydroxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate with 2-methoxy-ethyl bromide there was obtained tert-butyl (3SR,4RS,5RS)-4-[4-(2-benzyloxy-ethoxymethyl)-phenyl]-3-(2-methoxy-ethoxymethyl)-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless oil; MS: 687 (M+NH4)+.

reactant | tert-butyl (3SR,4RS,5RS)-4-[4-(2-benzyloxy-ethoxymethyl)-phenyl]-3-hydroxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCOCC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)CO | C38H45NO6
reactant | 2-methoxy-ethyl bromide | COCCBr | C3H7BrO
product | tert-butyl (3SR,4RS,5RS)-4-[4-(2-benzyloxy-ethoxymethyl)-phenyl]-3-(2-methoxy-ethoxymethyl)-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCOCC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)COCCOC | C41H51NO7
